US09193741B2
Synthesis of N-(4,6-dihydroxypyrimidin-5-yl)-4-fluorobenzamide
Formamidine acetate (0.46 g, 4.46 mmol) and dimethyl 2-(4-fluorobenzamido)malonate (1.0 g, 3.71 mmol) were added to a solution of sodium (0.17 g, 7.43 mmol) in ethanol (37 ml). The reaction mixture was refluxed for 3 hours. After cooling down, the precipitate was filtered off and washed with ethanol. The product was dissolved in a minimal volume of water and acidified to pH 4-5 with 5M HCl. The precipitate was collected, washed with water and dried to yield the title compound as a white solid (0.60 g, 64%).

reactant | Formamidine acetate | 4.46 mmol, 0.46 g | C(C)(=O)O.C(=N)N
reactant | dimethyl 2-(4-fluorobenzamido)malonate | 3.71 mmol, 1.0 g | FC1=CC=C(C(=O)NC(C(=O)OC)C(=O)OC)C=C1 | C12H12FNO5
reactant | sodium | 7.43 mmol, 0.17 g | [Na] | Na
solvent | ethanol | 37 ml | C(C)O | C2H6O
product | N-(4,6-dihydroxypyrimidin-5-yl)-4-fluorobenzamide | 0.60 g, 64% | OC1=NC=NC(=C1NC(C1=CC=C(C=C1)F)=O)O | C11H8FN3O3
